US07842688B2
i) 2-Triisopropylsilanyloxyethyl 4-methyl-3-(2-triisopropylsilanyloxyethoxy)benzoate
Analogously to Example 12d, 5.0 g of 3-hydroxy-4-methylbenzoic acid and 24.3 g of (2-iodoethoxy)triisopropylsilane are reacted. The title compound is obtained as a yellowish oil. Rf=0.66 (1:4 EtOAc-heptane); Rt=6.30.

reactant | 3-hydroxy-4-methylbenzoic acid | 5.0 g | OC=1C=C(C(=O)O)C=CC1C | C8H8O3
reactant | (2-iodoethoxy)triisopropylsilane | 24.3 g | ICCO[Si](C(C)C)(C(C)C)C(C)C | C11H25IOSi
product | 2-Triisopropylsilanyloxyethyl 4-methyl-3-(2-triisopropylsilanyloxyethoxy)benzoate | CC1=C(C=C(C(=O)OCCO[Si](C(C)C)(C(C)C)C(C)C)C=C1)OCCO[Si](C(C)C)(C(C)C)C(C)C | C30H56O5Si2
